US07163937B2
Following the procedures described in Example 2a, Steps 1–4, and substituting methyl triphenylphosphonium iodide in Step 1, (1R,2S,5R)-2-benzyloxycarbonylamino-7-oxo-6-aza-bicyclo[3.2.1]octane-6-carboxylic acid tert-butyl ester was converted to {(3S)-1-[(1S,2R,4R)-4-tert-butoxycarbonylamino-2-ethyl-cyclohexyl]-2-oxo-pyrrolidin-3-yl}-carbamic acid benzyl ester. A portion of this material (995 mg, 2.2 mmol) was dissolved in 20 mL of 4:1 CH2Cl2/TFA. The resultant solution was stirred at RT for 3 h and concentrated in vacuo. The residue was dissolved in methylene chloride and concentrated in vacuo; this procedure was repeated twice more to afford benzyl (S)-1-((1S,2R,4R)-4-amino-2-ethylcyclohexyl)-2-oxopyrrolidin-3-ylcarbamate. MS found: (M+H)+=360.2.

reactant | methyl triphenylphosphonium iodide | [I-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | (1R,2S,5R)-2-benzyloxycarbonylamino-7-oxo-6-aza-bicyclo[3.2.1]octane-6-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H]2CC[C@@H]([C@H](C1=O)C2)NC(=O)OCC2=CC=CC=C2 | C20H26N2O5
reactant | {(3S)-1-[(1S,2R,4R)-4-tert-butoxycarbonylamino-2-ethyl-cyclohexyl]-2-oxo-pyrrolidin-3-yl}-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(N[C@@H]1C(N(CC1)[C@@H]1[C@@H](C[C@@H](CC1)NC(=O)OC(C)(C)C)CC)=O)=O | C25H37N3O5
solvent | CH2Cl2 TFA | 20 mL | C(Cl)Cl.C(=O)(C(F)(F)F)O
product | benzyl (S)-1-((1S,2R,4R)-4-amino-2-ethylcyclohexyl)-2-oxopyrrolidin-3-ylcarbamate | N[C@H]1C[C@H]([C@H](CC1)N1C([C@H](CC1)NC(OCC1=CC=CC=C1)=O)=O)CC | C20H29N3O3
